US07893056B2
To a stirred solution of commercially-available [2-methyl-2-(4-morpholinyl)propyl]amine (0.158 g, 1.00 mmol) in DMF (10 mL) under a nitrogen atmosphere at 0° C., was added diisopropylethylamine (0.19 mL, 1.1 mmol) followed immediately by tris(1,1-dimethylethyl)2-(2,6-dichloro-5-fluoro-4-pyrimidinyl)-1,1,2-hydrazinetricarboxylate (0.497 g, 1.00 mmol). The reaction was allowed to reach room temperature and was stirred overnight. Then ether was added, and the mixture was washed with water. The aqueous layer was back extracted with ether, and the combined organics were dried (Na2SO4) and concentrated in vacuo. The resulting residue was purified by silica gel chromatography (5-60% ethyl acetate in hexanes, 1% triethylamine) to provide tris(1,1-dimethylethyl)2-(2-chloro-5-fluoro-6-{[2-methyl-2-(4-morpholinyl)propyl]amino}-4-pyrimidinyl)-1,1,2-hydrazinetricarboxylate as a clear oil (0.578 g, 94%). LCMS: (M+H)+=619.4.

reactant | [2-methyl-2-(4-morpholinyl)propyl]amine | 1.00 mmol, 0.158 g | CC(CN)(C)N1CCOCC1 | C8H18N2O
reactant | diisopropylethylamine | 1.1 mmol, 0.19 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | tris(1,1-dimethylethyl)2-(2,6-dichloro-5-fluoro-4-pyrimidinyl)-1,1,2-hydrazinetricarboxylate | 1.00 mmol, 0.497 g | CC(C)(C)OC(=O)N(N(C(=O)OC(C)(C)C)C1=NC(=NC(=C1F)Cl)Cl)C(=O)OC(C)(C)C | C19H27Cl2FN4O6
reactant | ether | CCOCC | C4H10O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | tris(1,1-dimethylethyl)2-(2-chloro-5-fluoro-6-{[2-methyl-2-(4-morpholinyl)propyl]amino}-4-pyrimidinyl)-1,1,2-hydrazinetricarboxylate | 0.578 g, 94% | CC(C)(C)OC(=O)N(N(C(=O)OC(C)(C)C)C1=NC(=NC(=C1F)NCC(C)(N1CCOCC1)C)Cl)C(=O)OC(C)(C)C | C27H44ClFN6O7
